US08809372B2
To a solution of 2-bromothiazole (1 g, 6 mmol) in toluene (20 mL) and ethanol (10 mL) was added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.41 g, 7.3 mmol), 2 M sodium carbonate solution (17.3 mL) and Pd(PPh3)4 (7 mg, 0.06 mmol). The reaction mixture was purged with argon for 15 min. The resulting mixture was heated at 70° C. for 4 h. The reaction mixture was concentrated and diluted with water (100 mL), extracted with ethyl acetate (2×200 mL). The combined extracts were washed with brine solution (20 mL), the organic solvent was dried over Na2SO4, filtered and concentrated under reduced pressure to obtain crude product. The crude product was purified by flash chromatography (60-120μ; 50% ethyl acetate in hexane) to afford racemic 2-(1H-pyrazol-4-yl)thiazole as brown liquid (520 mg, 56% yield). 1H NMR (400 MHz, DMSO-d6): δ 13.22 (br s, 1H), 8.30 (s, 1H), 7.93 (s, 1H), 7.73 (s, 1H), 7.55 (d, 1H); LC-MS m/z calculated for [M+H]+152.02, found 152.1.

reactant | 2-bromothiazole | 6 mmol, 1 g | BrC=1SC=CN1 | C3H2BrNS
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 7.3 mmol, 1.41 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | sodium carbonate | 2 M, 17.3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.06 mmol, 7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | racemic 2-(1H-pyrazol-4-yl)thiazole | 520 mg, 56% yield | N1N=CC(=C1)C=1SC=CN1 | C6H5N3S
